Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bladder cancer
 
Major Surgical or Invasive Procedure:
robotic anterior exenteration and open ileal conduit

 
History of Present Illness:
___ with invasive bladder cancer, pelvic MRI concerning for 
invasion into anterior vaginal wall, now s/p robotic anterior 
exent (Dr ___ and open ileal conduit (Dr ___.
 
Past Medical History:
Hypertension, laparoscopic cholecystectomy
six months ago, left knee replacement six to ___ years ago,
laminectomy of L5-S1 at age ___, two vaginal deliveries.

 
Social History:
___
Family History:
Negative for bladder CA.

 
Physical Exam:
A&Ox3
Breathing comfortably on RA
WWP
Abd S/ND/appropriate postsurgical tenderness to palpation
Urostomy pink, viable
 
Pertinent Results:
___ 06:50AM BLOOD WBC-7.6 RBC-3.41* Hgb-10.6* Hct-32.5* 
MCV-95 MCH-31.1 MCHC-32.6 RDW-14.4 RDWSD-50.2* Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-117* UreaN-23* Creat-0.6 Na-136 
K-4.4 Cl-104 HCO3-23 AnGap-13
___ 06:45AM BLOOD Calcium-7.9* Phos-3.4 Mg-2.0
 
Brief Hospital Course:
Ms. ___ was admitted to the Urology service after 
undergoing [robotic anterior exenteration with ileal conduit]. 
No concerning intrao-perative events occurred; please see 
dictated operative note for details. Patient received 
___ intravenous antibiotic prophylaxis and deep vein 
thrombosis prophylaxis with subcutaneous heparin. The 
post-operative course was notable for several episodes of emesis 
prompting NGT placement on ___.  Pt self removed the NGT on ___, 
but nausea/emesis resolved thereafter and pt was gradually 
advanced to a regular diet with passage of flatus without issue. 
 With advacement of diet, patient was transitioned from IV pain 
medication to oral pain medications. The ostomy nurse
saw the patient for ostomy teaching. At the time of discharge 
the wound was healing well with no evidence of erythema, 
swelling, or purulent drainage. Her drain was removed. The 
ostomy was perfused and patent, and one ureteral stent had 
fallen out spontaneously.  ___ was consulted and recommended 
disposition to rehab.  Post-operative follow up appointments 
were arranged/discussed and the patient was discharged to rehab 
for further recovery.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Heparin 5000 UNIT SC ONCE 
Start: in O.R. Holding Area 
2. Losartan Potassium 50 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Levothyroxine Sodium 175 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID 
take while taking narcotic pain meds 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*50 Capsule Refills:*0 
3.  Enoxaparin Sodium 40 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg sc daily Disp #*28 Syringe 
Refills:*0 
4.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO DAILY 
take while ureteral stents are in place 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth daily Disp #*14 Capsule Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4h prn Disp #*30 Tablet 
Refills:*0 
6.  Atorvastatin 10 mg PO QPM  
7.  Levothyroxine Sodium 175 mcg PO DAILY  
8.  Losartan Potassium 50 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Bladder cancer

 
Discharge Condition:
WdWn, NAD, AVSS
Abdomen soft, appropriately tender along incision
Incision is c/d/I (steris)
Stoma is well perfused; Urine color is yellow
Ureteral stent noted via stoma
JP drain has been removed
Bilateral lower extremities are warm, dry, well perfused.  There 
is no reported calf pain to deep palpation. No edema or pitting

 
Discharge Instructions:
-Please also refer to the handout of instructions provided to 
you by your Urologist
-Please also refer to the instructions provided to you by the 
Ostomy nurse specialist that details the required care and 
management of your Urostomy
-You will be sent home with Visiting Nurse ___ 
services to facilitate your transition to home care of your 
urostomy
-Resume your pre-admission/home medications except as noted. 
Always call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor
-___ you have been prescribed IBUPROFEN, please note that you may 
take this in addition to the prescribed NARCOTIC pain 
medications and/or tylenol. FIRST, alternate Tylenol 
(acetaminophen) and Ibuprofen for pain control.
-REPLACE the Tylenol with the prescribed narcotic if the 
narcotic is combined with Tylenol (examples include brand names 
___, Tylenol #3 w/ codeine and their generic 
equivalents). ALWAYS discuss your medications (especially when 
using narcotics or new medications) use with the pharmacist when 
you first retrieve your prescription if you have any questions. 
Use the narcotic pain medication for break-through pain that is 
>4 on the pain scale.
-The MAXIMUM dose of Tylenol (ACETAMINOPHEN) is 4 grams (from 
ALL sources) PER DAY and remember that the prescribed narcotic 
pain medication may also contain Tylenol (acetaminophen) so this 
needs to be considered when monitoring your daily dose and 
maximum.
-If you are taking Ibuprofen (Brand names include ___ 
this should always be taken with food. If you develop stomach 
pain or note black stool, stop the Ibuprofen.
-Please do NOT drive, operate dangerous machinery, or consume 
alcohol while taking narcotic pain medications.
-Do NOT drive and until you are cleared to resume such 
activities by your PCP or urologist. You may be a passenger
-Colace may have been prescribed to avoid post surgical 
constipation and constipation related to narcotic pain 
medication. Discontinue if loose stool or diarrhea develops. 
Colace is a stool-softener, NOT a laxative.
-You may shower 2 days after surgery, but do not tub bathe, 
swim, soak, or scrub incision for 2 weeks
-If you had a drain or skin clips (staples) removed from your 
abdomen; bandage strips called steristrips have been applied 
to close the wound OR the site was covered with a gauze 
dressing. Allow any steristrips/bandage strips to fall off on 
their own ___ days). PLEASE REMOVE any "gauze" dressings within 
two days of discharge. Steristrips may get wet.
-No heavy lifting for 4 weeks (no more than 10 pounds). Do "not" 
be sedentary. Walk frequently. Light household chores (cooking, 
folding laundry, washing dishes) are generally ok but AGAIN, 
avoid straining, pulling, twisting (do NOT vacuum).

 
Followup Instructions:
___